US06407101B1
A solution of tert-butyl 6-(3-bromo-5-cyano-1-methyl-1H-pyrrol-2-yl)-4,4-dimethyl-2-oxo-2H-3,1-benzoxazine-1(4H)-carboxylate (1 eq, 0.4 g, 0.87 mmol) in THF was added to a solution of sodium ethoxide (3 eq, 0.18 g, 2.6 mmol) in ethanol (10 mL). The solution was heated at 80° C. for 1 h then cooled to room temperature and concentrated in vacuo. The residue was dissolved in THF (10 mL) and 4N HCl (10 mL) was added. After heating to 60° C. for 16 h the solution was cooled, poured into water and the layers were separated. The aqueous layer was extracted with ethyl acetate (3×10 mL) and the combined organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo. The product, 4-bromo-5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1-methyl-1H-pyrrole-2-carbonitrile (0.17 g, 54%) was obtained by crystallization from 20% ethyl acetate/hexane. 1H NMR (300 MHZ, d6-DMSO) δ1.64 (s, 6H), 3.62 (s, 3H), 7.02 (d, 1H, J=8.2 Hz), 7.34 (s, 1H), 7.35 (dd, 1H, J=1.3, 8.2 Hz), 7.40 (s, 1H), 10.47 (s, 1H). MS (ESI (−)) m/z 358/360 (M−H)−. Anal. calcd for C16H14N3O2Br, C, 53.4; H, 3.92; N, 11.7. Found: C, 52.6; H, 3.82; N, 11.2.

reactant | tert-butyl 6-(3-bromo-5-cyano-1-methyl-1H-pyrrol-2-yl)-4,4-dimethyl-2-oxo-2H-3,1-benzoxazine-1(4H)-carboxylate | 0.87 mmol, 0.4 g, 1 eq | BrC1=C(N(C(=C1)C#N)C)C=1C=CC2=C(C(OC(N2C(=O)OC(C)(C)C)=O)(C)C)C1 | C21H22BrN3O4
reactant | sodium ethoxide | 2.6 mmol, 0.18 g, 3 eq | [O-]CC.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-bromo-5-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1-methyl-1H-pyrrole-2-carbonitrile | 0.17 g, 54% | BrC=1C=C(N(C1C=1C=CC2=C(C(OC(N2)=O)(C)C)C1)C)C#N | C16H14BrN3O2
